US03976657
[2-Chloro-5-[3 -(2-furanyl)-1,2,4-oxadiazol-5-yl]phenyl]carbamic acid, phenyl ester
To a mixture of 5-(3-amino-4-chlorophenyl)-3-(2-furanyl)-1,2,4-oxadiazole (0.75 and 0.58 g of potassium carbonate in 30 ml of dioxane is added 0.94 g of phenylchloroformate. The resulting mixture is heated at reflux for 2 hours and concentrated to dryness. 50 ml of water is added to the residue and the mixture extracted three times with chloroform. The extracts are dried over magnesium sulfate, filtered and concentrated. The residue is recrystallized from benzene to yield 0.62 g of the title compound, melting point 177°-178°C.

reactant | 5-(3-amino-4-chlorophenyl)-3-(2-furanyl)-1,2,4-oxadiazole | NC=1C=C(C=CC1Cl)C1=NC(=NO1)C=1OC=CC1 | C12H8ClN3O2
reactant | potassium carbonate | 0.58 g | C([O-])([O-])=O.[K+].[K+]
reactant | phenylchloroformate | 0.94 g | C1(=CC=CC=C1)OC(=O)Cl | C7H5ClO2
solvent | dioxane | 30 ml | O1CCOCC1 | C4H8O2
product | [2-Chloro-5-[3 -(2-furanyl)-1,2,4-oxadiazol-5-yl]phenyl]carbamic acid, phenyl ester | 0.62 g | ClC1=C(C=C(C=C1)C1=NC(=NO1)C=1OC=CC1)NC(OC1=CC=CC=C1)=O | C19H12ClN3O4
